US07432289B2
N-(4′-{[(Cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)-2-piperidin-1- ylisonicotinamide was prepared from 2-chloro-N-(4′-{[(cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)isonicotinamide and piperidine using method A. NMR; δH [2H6]—DMSO 10.29,(1H, s), 8.62,(1H, t), 8.22,(1H, d), 7.93,(2H, d), 7.71,(1H, dd), 7.65,(1H, d), 7.44,(2H, d), 7.30,(1H, d), 7.20,(1H, s), 6.99,(1H, d), 3.58,(4H, m), 3.16,(2H, t), 2.20,(3H, s), 1.60-1.54,(6H, m), 1.04,(1H, m), 0.43,(2H, m), 0.24,(2H, m). LCMS: retention time 3.43 min, MH+469.

reactant | 2-chloro-N-(4′-{[(cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)isonicotinamide | ClC=1C=C(C(=O)NC=2C=C(C(=CC2)C)C2=CC=C(C=C2)C(=O)NCC2CC2)C=CN1 | C24H22ClN3O2
reactant | piperidine | N1CCCCC1 | C5H11N
product | N-(4′-{[(Cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)-2-piperidin-1- ylisonicotinamide | C1(CC1)CNC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1C)NC(C1=CC(=NC=C1)N1CCCCC1)=O | C29H32N4O2
